US08202873B2
1-Cyclopropyl-1H-pyrazole-4-carbaldehyde
Dissolve 1H-pyrazole-4-carboxaldehyde in N,N-dimethylformamide (1.9 mL). Add potassium carbonate (0.539 g, 3.90 mmol) and cyclopropylbromide (0.346 g, 2.86 mmol). Heat in a pressure tube to 130° C. for 18 hr. Cool to ambient temperature and add DCM and water. Separate layers and extract water layer 3 times with DCM. Wash combined DCM layers with brine, dry (magnesium sulfate), filter, and concentrated to give the free base of the title preparation. GC-MS: m/z=136 [M+].

reactant | 1H-pyrazole-4-carboxaldehyde | N1N=CC(=C1)C=O | C4H4N2O
reactant | potassium carbonate | 3.90 mmol, 0.539 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylbromide | 2.86 mmol, 0.346 g | C1(CC1)Br | C3H5Br
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 1.9 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-Cyclopropyl-1H-pyrazole-4-carbaldehyde | C1(CC1)N1N=CC(=C1)C=O | C7H8N2O
